US07285557B2
N-{4-[6-(4-Chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}-N-[3-(dimethylamino)propyl]-4-methylbenzene-sulfonamide
The title compound was prepared by reaction of N-(3-bromopropyl)-N{4-[6-(4-chlorophenyl)4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}4-methylbenzenesulfonamide (the title compound from Example K15) and dimethylamine. LCMS m/z 623 (MH+).

reactant | N-(3-bromopropyl)-N{4-[6-(4-chlorophenyl)4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}4-methylbenzenesulfonamide | BrCCCN(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)N1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC | C29H25BrClN3O4S2
reactant | dimethylamine | CNC | C2H7N
product | N-{4-[6-(4-Chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}-N-[3-(dimethylamino)propyl]-4-methylbenzene-sulfonamide | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCN(C)C)OC | C31H31ClN4O4S2
